US05434292
3 g of methyl-2-[3-chloro-4-(cis-2-hydroxycyclohexane-1-yl methyl)phenyl]propionate was incorporated with 80 ml of an aqueous methanol containing 1.2 g of sodium hydroxide and then refluxed under heat for two hours. After the end of the reaction, the reaction mixture was treated to remove the solvent therefrom at a reduced pressure, incorporated with 50 ml of water and washed with 50 ml of ethyl acetate, after which the aqueous layer was adjusted to a pH of 2 with conc. hydrochloric acid, extracted with 50 ml of ethyl acetate, washed with water, dried and then freed of the solvent thereby to obtain 2.3 g (yield 80%) of oily 2-[3-chloro-4-(cis-2-hydroxycyclohexane-1-yl methyl)phenyl]propionic acid having the following instrumental analyses.

reactant | methyl-2-[3-chloro-4-(cis-2-hydroxycyclohexane-1-yl methyl)phenyl]propionate | 3 g | COC(C(C)C1=CC(=C(C=C1)C[C@H]1[C@H](CCCC1)O)Cl)=O | C17H23ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 80 ml, 1.2 g | CO | CH4O
product | 2-[3-chloro-4-(cis-2-hydroxycyclohexane-1-yl methyl)phenyl]propionic acid | 2.3 g, yield 80% | ClC=1C=C(C=CC1C[C@H]1[C@H](CCCC1)O)C(C(=O)O)C | C16H21ClO3
